US08012976B2
8-(4-Chlorophenyl)-9-(1-methyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 2-(4-chlorophenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (150 mg, 0.37 mmol) in 85% hydrazine monohydrate (4 ml) and methanol (6 ml) was stirred at room temperature for 2 h. The mixture was filtered and washed with water to give the title compound (89 mg, yield: 65%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 3.44 (s, 3H), 4.69 (d, J=10.8 Hz, 1H), 4.96 (d, J=10.8 Hz, 1H), 6.76 (s, 1H), 6.93 (d, 1H), 7.16 (d, J=8 Hz, 1H), 7.33-7.44 (m, 6H), 7.56-7.60 (m, 1H), 12.19 (d, 1H); LC-MS (ESI) m/z: 378 (M+1)+.

reactant | ethyl 2-(4-chlorophenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.37 mmol, 150 mg | ClC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C=1N(C=CN1)C)=O)C(=O)OCC | C22H20ClN3O3
reactant | hydrazine monohydrate | 4 ml | O.NN
solvent | methanol | 6 ml | CO | CH4O
product | 8-(4-Chlorophenyl)-9-(1-methyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 89 mg, yield: 65% | ClC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C=1N(C=CN1)C | C20H16ClN5O
